US06953857B2
5-[2-(2,4-Dichloro-phenyl)-ethoxy]-isophthalic acid dimethyl ester
1.75 g of triphenylphosphine and 1 g of 5-Hydroxy-isophthalic acid dimethyl ester were dissolved in 17 ml of anhydrous THF. The solution was cooled to 0-10° C. and a solution of 1 ml DEAD in 1 ml anhydrous THF was added dropwise over 20 min. The reaction was warmed to RT and stirred for 45 min. A solution of 11.3 ml 2-(2,4-Dichlorophenyl)-ethanol in 1 ml anhydrous THF was added with cooling. The reaction was stirred at RT for 16 h, then the solvents were removed under reduced pressure. The residue was treated with n-hepane:ethyl acetate/1:1. The filtrate was dried under reduced pressure and the product was purified by silica gel chromatography, eluting with n-heptane:ethyl acetate/4:1 to n-heptane:ethyl acetate/3:1.

reactant | triphenylphosphine | 1.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-Hydroxy-isophthalic acid dimethyl ester | 1 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | DEAD | 1 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-(2,4-Dichlorophenyl)-ethanol | 11.3 ml | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-[2-(2,4-Dichloro-phenyl)-ethoxy]-isophthalic acid dimethyl ester | COC(C1=CC(C(=O)OC)=CC(=C1)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C18H16Cl2O5
